US04873251
2-(4-Chlorophenyl)-1H-imidazo[4,5-b]pyridine-1-acetic acid hydrate [1:1]
A mixture of 2-(4-chlorophenyl)-1H-imidazo[4,5-b]pyridine-1-acetic acid ethyl ester (8.4 g, 0.027 mole) and potassium hydroxide (2.25 g, 0.04 mole) in 95% ethanol (75 ml) and water (5 ml) was heated at reflux for 2.5 hours. The mixture was evaporated to dryness. The residue was dissolved in water and acidified with glacial acetic acid. The precipitate was collected by filtration, washed with water, and dried under high vacuum overnight at 60° C. to give 7.4 g (95%) yield). A 1.4-g sample was dissolved in ~450 ml of boiling methanol, and the solution was treated with Florsil® and filtered. The filtrate was concentrated and diluted with water. A crystalline precipitate was collected by filtration, washed with water, and dried under high vacuum at 60° C. for 4 hours, then at room temperature over the weekend to give 0.16 g of solids, mp. 194°-96° C.

reactant | 2-(4-chlorophenyl)-1H-imidazo[4,5-b]pyridine-1-acetic acid ethyl ester | 0.027 mole, 8.4 g | C(C)OC(CN1C(=NC2=NC=CC=C21)C2=CC=C(C=C2)Cl)=O | C16H14ClN3O2
reactant | potassium hydroxide | 0.04 mole, 2.25 g | [OH-].[K+]
solvent | ethanol | 75 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
solvent | methanol | ~450 ml | CO | CH4O
product | 2-(4-Chlorophenyl)-1H-imidazo[4,5-b]pyridine-1-acetic acid hydrate | 0.16 g | O.ClC1=CC=C(C=C1)C=1N(C=2C(=NC=CC2)N1)CC(=O)O | InChI=1S/C14H10ClN3O2.H2O/c15-10-5-3-9(4-6-10)14-17-13-11(2-1-7-16-13)18(14)8-12(19)20;/h1-7H,8H2,(H,19,20);1H2
